US07544812B2
3-(4-{2-[3-Ethyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester:
A slurry of 2-Methyl-3-(4-{2-[2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester (0.500 g, 0.875 mmol) and sodium hydride (0.039 g, 0.96 mmol, 60% dispersion on mineral oil) in DMF (10 mL) is stirred for 1 hour, then cooled to 0° C. Iodoethane (0.70 mL, 8.75 mmol, d=1.975) is added, then the reaction mixture is stirred 18 hours at ambient temperature and diluted with ethyl acetate. The organic layer is washed, dried, and concentrated to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.55 (d, 2 h, J=8.8 Hz), 7.37 (d, 2H, J=8.0 Hz), 7.21 (t, 2H, J=8.8 Hz), 7.15 (d, 2H, J=8.0 Hz), 6.96 (t, 1H, J=7.2 Hz), 6.82 (d, 2H, J=7.2 Hz), 6.74 (d, 2H, J=8.8 Hz), 4.43, 4.39 (ABq, 2H, J=15.2 Hz), 4.22, 4.17 (ABq, 2H, J=7.2 Hz), 3.96 (t, 1H, J=6.4 Hz), 3.85-3.78 (m, 1H), 3.61-3.55 (m, 1H), 3.35 (t, 1H, J=8.8 Hz), 3.26, 3.12 (ABq, 2H, J=13.6 Hz), 3.16-3.07 (m, 2H), 2.99 (t, 1H, J=8.0 Hz), 2.26-2.19 (m, 1H), 1.90-1.83 (m, 1H), 1.39(s, 3H), 1.21 (t, 3H, J=7.2 Hz), 1.14 (t, 3H, J=7.2 Hz). MS [EI+] 599 (M+H)+.

reactant | 2-Methyl-3-(4-{2-[2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester | 0.875 mmol, 0.500 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1NC(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)(OC1=CC=CC=C1)C)=O | C31H33F3N2O5
reactant | sodium hydride | 0.96 mmol, 0.039 g | [H-].[Na+]
reactant | Iodoethane | 8.75 mmol, 0.70 mL | ICC | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-{2-[3-Ethyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)CC)(OC1=CC=CC=C1)C)=O | C33H37F3N2O5
